US07514433B2
a) Step 1: 3-(2-Chloro-acetyl)-1H-indole-6-carboxylic acid methyl ester
A mixture of 14 g (80 mmol) methyl indole-6-carboxylate, 40 mL (84 mmol) ethylmagnesium chloride (2M) in diethyl ether, 240 mL (240 mmol) zinc chloride (1M) in diethyl ether, 9.5 g (84 mmol) chloroacetyl chloride in 680 mL DCM was stirred at room temperature for 19 h. THF was added and diethyl ether and DCM were removed by evaporation. The mixture was treated with NH4Cl aq. and ethyl acetate. The aqueous phase was extracted with THF/ethyl acetate and the combined organic layers were washed with NaCl aq., dried with Na2SO4 and evaporated. The residue was washed with ethyl acetate and dried under vacuum at 50° C. to yield 4 g (20%) of the title compound as light yellow solid. MS (m/e): 250.1 (M−H).

reactant | methyl indole-6-carboxylate | 80 mmol, 14 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | ethylmagnesium chloride | 84 mmol, 2M, 40 mL | C(C)[Mg]Cl
reactant | chloroacetyl chloride | 84 mmol, 9.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | DCM | 680 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 240 mmol, 1M, 240 mL | [Cl-].[Zn+2].[Cl-]
product | 3-(2-Chloro-acetyl)-1H-indole-6-carboxylic acid methyl ester | 4 g, 20% | COC(=O)C1=CC=C2C(=CNC2=C1)C(CCl)=O | C12H10ClNO3
